US04510136
Preparation of (1,1-dimethylethoxy)methyl(phenyl)(1H-1,2,4-triazol-1-ylmethyl)silane
A mixture of 3.6 g (0.015 mol) of chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane and 1.3 g (0.015 mol) of 1,2,4-triazole sodium salt in 8 ml of dimethylformamide was stirred at 80° for 2 hours, cooled, and poured onto water. The resulting mixture was extracted with ether, and the ether extracts were washed with water and brine, dried over magnesium sulfate, and evaporated to leave 2.7 g of a yellow oil. Chromatography on silica gel, eluting with 50:50 ethyl acetate-hexanes, provided 1.5 g (36%) of the title compound as a pale yellow oil: nD21 1.5134; ir (neat) 3120, 3070, 3045, 2975, 2925, 1500, 1425, 1380, 1365, 1270, 1255, 1240, 1190, 1140, 1115, 1050, 1020, 1010, 830, 810, 790, 740, 700, 680 cm-1 ; nmr (CDCl3): 0.6 (3H, s), 1.3 (9H, s), 3.9 (2H, s), 7.3-7.7 (5H, m), 7.9 (1H, s) and 8.0 (1 H, s).

reactant | chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane | 0.015 mol, 3.6 g | ClC[Si](C1=CC=CC=C1)(C)OC(C)(C)C | C12H19ClOSi
reactant | 1,2,4-triazole sodium salt | 0.015 mol, 1.3 g | [Na].N1N=CN=C1
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | (1,1-dimethylethoxy)methyl(phenyl)(1H-1,2,4-triazol-1-ylmethyl)silane | 2.7 g | CC(C)(O[Si](CN1N=CN=C1)(C1=CC=CC=C1)C)C | C14H21N3OSi
